US04255182
Preparation of N-(4,4,6,6-tetramethyl-1,3-dithian-2-ylmethyl)methylamine
2-Chloromethyl-4,4,6,6-tetramethyl-1,3-dithiane (60 grams) and 40% aqueous methylamine (160 ml) are charged into a pressure vessel and heated, with agitation, at a temperature of about 100° C. for a period of about 16 hours under autogeneous pressure. At the end of this period, the reaction mixture is cooled to room temperature and 16 grams of sodium hydroxide are added. The resulting mixture is extracted with methylene chloride. The extract is dried, then stripped of solvent to yield the desired product N-(4,4,6,6-tetramethyl-1,3-dithian-2-ylmethyl)methylamine.

reactant | 2-Chloromethyl-4,4,6,6-tetramethyl-1,3-dithiane | 60 grams | ClCC1SC(CC(S1)(C)C)(C)C | C9H17ClS2
reactant | sodium hydroxide | 16 grams | [OH-].[Na+]
reactant | methylamine | 160 ml | CN | CH5N
product | N-(4,4,6,6-tetramethyl-1,3-dithian-2-ylmethyl)methylamine | CC1(SC(SC(C1)(C)C)CNC)C | C10H21NS2
